US06566367B2
To a suspension of 5-(3-methoxyphenyl)-2-aminobenzoic acid (2.0g) in 1,4-dioxane (20 mL) add N-methylpyrolidinone (NMP, 5 mL) and triethylamine (1.4 mL), followed by diphenyl phosphoric azide (DPPA, 2.5 g). After stirring at ambient temperature for 30 minutes, heat the mixture to 100° C. for 2 hours, until gas evolution fully subsided. Cool the mixture to ambient temperature and concentrate in vacuo. Dissolve the residue in MeOH and leave to stand for 18 hours. Filter the precipitate and air dry to obtain 5-(3-methoxyphenyl)benzimidazolidin-2-one as a pale yellow solid.

reactant | 5-(3-methoxyphenyl)-2-aminobenzoic acid | 2.0g | COC=1C=C(C=CC1)C=1C=CC(=C(C(=O)O)C1)N | C14H13NO3
reactant | N-methylpyrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
reactant | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-(3-methoxyphenyl)benzimidazolidin-2-one | COC=1C=C(C=CC1)C1=CC2=C(NC(N2)=O)C=C1 | C14H12N2O2
